US05008259
A suspension of 7-methoxycarbonylisatin (2.4 g) in ether (50 ml) was treated at 31 5° C. with a solution of diazomethane (1.5 g) in ether (140 ml). The mixture was stirred for 3 hours and acetic acid (3 ml) added. The mixture was filtered and the filtrate concentrated under reduced pressure to give a residue that was purified by column chromatograph (silica gel eluting with dichloromethane/methanol) to give 3-hydroxy-8-methoxycarboxy-2-(1H)-quinolinone (350 mg). This in methanol (10 ml) was treated with 2N sodium hydroxide (1.75 ml) at room temperature for 2.5 hours. The mixture was acidified with 2N HCl and the precipitate was collected and dried to give 3-hydroxy-8-carboxy-2(1H)-quinolinone (180 mg); NMR (DMSO-d6 /CF3COOD) 7.12-7.30(m,2H); 7.75(d,1H); 8.01(d,1H).

reactant | 7-methoxycarbonylisatin | 2.4 g | COC(=O)C=1C=CC=C2C(C(NC12)=O)=O | C10H7NO4
reactant | diazomethane | 1.5 g | [N+](=[N-])=C | CH2N2
reactant | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 140 ml | CCOCC | C4H10O
product | 3-hydroxy-8-methoxycarboxy-2-(1H)-quinolinone | 350 mg | OC=1C(N(C2=C(C=CC=C2C1)OC)C(=O)O)=O | C11H9NO5
